US08877752B2
3-acetamidophenyl butyrate (7):
N-(3-Hydroxyphenyl)acetamide (300 g) was stirred in pyridine (990 mL) followed by the addition of butyryl chloride (246 mL). This reaction was stirred at room temperature for 30 min. The resulting crystalline suspension was left for 18 hrs. to ensure completion. The mixture was dissolved in water and ethyl acetate (1:1, 1000 mL), the organic layer was separated and washed with brine (3×1000 mL). The organic layer was dried over sodium sulfate and concentrated in vacuo at 70° C. to remove pyridine. Upon cooling the oil become a very low melting solid. This solid was carefully added to a coarse 500 mL frit and dried. Minimal washing with ice cold hexane was used to cake the solid. The final compound was collected to provide the title compound in 75% yield (440 g) as a light-yellow solid.

reactant | N-(3-Hydroxyphenyl)acetamide | 300 g | OC=1C=C(C=CC1)NC(C)=O | C8H9NO2
reactant | butyryl chloride | 246 mL | C(CCC)(=O)Cl | C4H7ClO
solvent | pyridine | 990 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-acetamidophenyl butyrate | 75% yield | C(CCC)(=O)OC1=CC(=CC=C1)NC(C)=O | C12H15NO3
